US06884821B1
9.04 g of hexamethylene tetramine was added to a solution of 10.0 g N1-(2-methoxybenzyl)-2,4-dichlorobenzamide in trifluoroacetic acid (200 mL), followed by stirring at 50° C. for 23 hours. The reaction solution was left and cooled to room temperature and then concentrated. The residue was diluted with ice-water and adjusted to pH 11 to 12 with 1N aqueous sodium hydroxide solution. The solution was extracted with ethyl acetate. The organic layer was washed with 1 N aqueous sodium hydroxide solution (×3), 1 N hydrochloric acid (×2) and brine, dried over anhydrous sodium sulfate and filtered thorough 100 g silica gel. After concentrating the filtrate, the residue was suspended in ethyl acetate. The solid was collected by filtration and washed with ethyl acetate, to give 7.15 g of N1-(5-formyl-2-methoxybenzyl)-2,4-dichlorobenzamide as a colorless solid.

reactant | hexamethylene tetramine | 9.04 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | N1-(2-methoxybenzyl)-2,4-dichlorobenzamide | 10.0 g | COC1=C(CNC(C2=C(C=C(C=C2)Cl)Cl)=O)C=CC=C1 | C15H13Cl2NO2
reactant | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N1-(5-formyl-2-methoxybenzyl)-2,4-dichlorobenzamide | 7.15 g | C(=O)C=1C=CC(=C(CNC(C2=C(C=C(C=C2)Cl)Cl)=O)C1)OC | C16H13Cl2NO3
